US07659411B2
5.9 g of activated clay (product of Nacalai Tesque, Inc.) and 25.5 g (0.25 moles) of acetic anhydride were introduced into a 100 ml 4-necked flask equipped with a stirrer, condenser, thermometer, and dropping funnel. 29.6 g (0.25 moles) of 2-chlorothiophene was added dropwise at 45° C. to 55° C. over 1 hour. After the dropwise addition, the reaction was allowed to proceed at 50° C. for 72 hours. After the reaction, the activated clay was separated by filtration to give a dark brown filtrate. The filtrate was subjected to distillation to remove unreacted 2-chlorothiophene, acetic anhydride, and by-product acetic acid, thus giving 20.9 g (0.13 moles) of 2-acetyl-5-chlorothiophene. The yield of 2-acetyl-5-chlorothiophene was 52% based on 2-chlorothiophene. The 3-isomer content was determined in the same manner as in Example 1. The 3-acetyl-5-chlorothiophene content of the resulting 2-acetyl-5-chlorothiophene product was 0.5 wt. %.

reactant | acetic anhydride | 0.25 moles, 25.5 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-chlorothiophene | 0.25 moles, 29.6 g | ClC=1SC=CC1 | C4H3ClS
product | 2-acetyl-5-chlorothiophene | 0.13 moles, 20.9 g | C(C)(=O)C=1SC(=CC1)Cl | C6H5ClOS
